US04904696
0.20 Gram of 2-fluoro-4-(1,1,2,2-tetrafluoroethoxy)nitrobenzene, 0.03 g of platinum dioxide and 5 ml of ethyl acetate were added to a reactor, and the atmosphere in the reactor was replaced by a hydrogen stream with stirring. Stirring was then continued at room temperature for 2 hours while introducing a hydrogen gas. Thereater, the reaction solution was filtered off, and the filtrate was concentrated to obtain 0.15 g of 2-fluoro-4-(1,1,2,2-tetrafluoroethoxy)aniline.

reactant | 2-fluoro-4-(1,1,2,2-tetrafluoroethoxy)nitrobenzene | FC1=C(C=CC(=C1)OC(C(F)F)(F)F)[N+](=O)[O-] | C8H4F5NO3
reactant | hydrogen | [H][H] | H2
catalyst | platinum dioxide | 0.03 g | [Pt](=O)=O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-fluoro-4-(1,1,2,2-tetrafluoroethoxy)aniline | 0.15 g, Yield: 85% | FC1=C(N)C=CC(=C1)OC(C(F)F)(F)F | C8H6F5NO
